US06699879B1
8-Ethyl-2-methylquinoline-4-carboxylic Acid Ethyl Ester
8-Bromo-2-methylquinoline4-carboxylic acid ethyl ester (0.5 g), lithium chloride (0.216 g), tetraethyltin (0.435 g) and bis(triphenylphosphine)palladium (II) chloride (0.05 g) were combined in dimethylformamide (20 ml) and heated at 100° C. for 24 h. Solvent was removed at reduced pressure, the residue dissolved in dichloromethane and filtered. Solvent was removed at reduced pressure and the residue column chromatographed (silica gel, 5% diethyl ether/pentane) to give the title compound (0.215 g). m/z (API+): 244 (MH+).

reactant | 8-Bromo-2-methylquinoline4-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C1=CC(=NC2=C(C=CC=C12)Br)C | C13H12BrNO2
reactant | lithium chloride | 0.216 g | [Cl-].[Li+]
reactant | tetraethyltin | 0.435 g | C(C)[Sn](CC)(CC)CC
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.05 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 8-Ethyl-2-methylquinoline-4-carboxylic Acid Ethyl Ester | 0.215 g | C(C)OC(=O)C1=CC(=NC2=C(C=CC=C12)CC)C | C15H17NO2
